US08729102B2
N-[(1S)-2-{4-[7-cyano-6-(cyclopropylmethoxy)-2H-indazol-2-yl]phenoxy}-1-methylethyl]acetamide
A mixture of N-[(1S)-2-{4-[7-bromo-6-(cyclopropylmethoxy)-2H-indazol-2-yl]phenoxy}-1-methylethyl]acetamide (150 mg), tris(dibenzylideneacetone)dipalladium(0) (45 mg), 1,1′-bis(diphenylphosphino)ferrocene (54.4 mg), zinc cyanide (57.7 mg), zinc powder (10.7 mg) and N,N-dimethylacetamide (3 mL) was stirred at 120° C. for 1.5 hr under an argon atmosphere. The reaction mixture was filtered through silica gel, and the filtrate was concentrated under reduced pressure. To the residue was added water, and the mixture was extracted with ethyl acetate. The combined organic layer was washed three times with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as colorless crystals (54.5 mg).

reactant | N-[(1S)-2-{4-[7-bromo-6-(cyclopropylmethoxy)-2H-indazol-2-yl]phenoxy}-1-methylethyl]acetamide | 150 mg | BrC1=C(C=CC2=CN(N=C12)C1=CC=C(OC[C@H](C)NC(C)=O)C=C1)OCC1CC1 | C22H24BrN3O3
reactant | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 45 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 54.4 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | zinc cyanide | 57.7 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc | 10.7 mg | [Zn] | Zn
product | N-[(1S)-2-{4-[7-cyano-6-(cyclopropylmethoxy)-2H-indazol-2-yl]phenoxy}-1-methylethyl]acetamide | 54.5 mg | C(#N)C1=C(C=CC2=CN(N=C12)C1=CC=C(OC[C@H](C)NC(C)=O)C=C1)OCC1CC1 | C23H24N4O3
